US05237055
Synthesis of 2"-N-Acetylelsamicin A (3a)
A mixture of elsamicin A (65.4 mg) and acetic anhydride (0.1 ml) in dry methanol (2 ml) was stirred at room temperature for 1 hour. Water (1 ml) was added and the mixture was evaporated in vacuo to give a yellow oil, which was purified by column chromatography on silica gel to give 70.5mg (100%) of the desired product.

reactant | elsamicin A | 65.4 mg | C[C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)O[C@H]2[C@@H](O[C@@H]([C@@H]([C@]2(C)O)O)C)OC3=CC=CC4=C3C5=C6C7=C(C=CC(=C7C(=O)O5)C)OC(=O)C6=C4O)N)OC)O | C33H35NO13
reactant | acetic anhydride | 0.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | 1 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | N-Acetylelsamicin A | 70.5mg, 100% | C[C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)O[C@H]2[C@@H](O[C@@H]([C@@H]([C@]2(C)O)O)C)OC3=CC=CC4=C3C5=C6C7=C(C=CC(=C7C(=O)O5)C)OC(=O)C6=C4O)NC(=O)C)OC)O | C35H37NO14
